US08426411B2
To a solution of ethyl 4-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (4.30 g, 11.3 mmol) in THF (57 mL) at about 0° C. was added TBAF (1.0 M in THF, 12.6 mL, 12.6 mmol) dropwise and the reaction mixture was stirred at about 0° C. for about 1 h. The reaction was warmed to room temperature and stirred for about 30 min. The solvent was removed under reduced pressure and the resulting oil was partitioned between EtOAc and brine (100 mL each). The organic layer was dried over anhydrous Na2SO4, filtered and concd under reduced pressure. The residue was triturated with DCM and filtered to give ethyl 4-chloro-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (1.32 g, 52%) as an off white solid: LC/MS (Table 1, Method b) Rt=2.07 min; MS m/z: 225 (M+H)+.

reactant | ethyl 4-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 11.3 mmol, 4.30 g | ClC1=C2C(=NC=C1C(=O)OCC)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C19H29ClN2O2Si
reactant | TBAF | 12.6 mmol, 1.0 M, 12.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 57 mL | C1CCOC1 | C4H8O
product | ethyl 4-chloro-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 1.32 g, 52% | ClC1=C2C(=NC=C1C(=O)OCC)NC=C2 | C10H9ClN2O2
